US05545734
17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of 17-Ethyl-1,20-di-hydroxy-12-[2'-(4"-t-butyldimethylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in methylene chloride cooled to -78° C. was added diethylaminosulfur trifluoride. After 3 min., saturated sodium bicarbonate solution was added followed by ethyl acetate and the reaction mixture was allowed to warm to room temperature. The reaction mixture was extracted with ethyl acetate, the organic extracts were dried over magnesium sulfate, filtered and evaporated in vacuo. The product was purified by chromatography (silica, ethyl acetate:hexanes 1:2+1% methanol. To a solution of this material (10 mg) in THF (0.6 ml) in a polypropylene vial was added 40 μL of HF-pyridine solution in THF. After stirring for 28 hours at rt, the mixture was added to a saturated solution of sodium bicarbonate. This mixture was extracted with ethyl acetate and the organic extracts were dried over magnesium sulfate, filtered and evaporated in vacuo. The product was purified by chromatography (silica, ethyl acetate:hexanes 2:1+1% methanol) to give the title compound. Mass Spectrum (FAB): 832 (M+Na)

reactant | 17-Ethyl-1,20-di-hydroxy-12-[2'-(4"-t-butyldimethylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C55H97NO13Si2
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H68FNO12
